US04820866
1,3-bis-(4-aminophenoxy)-2,2-diethylpropane
270 g 1,3-bis-(4-nitrophenoxy)-2,2-diethylpropane were hydrogenated by the same procedure as that of Example 10 in 1400 l DMF in the presence of 42 g Raney nickel. The crude product was recrystallized from isopropanol.

reactant | 1,3-bis-(4-nitrophenoxy)-2,2-diethylpropane | 270 g | [N+](=O)([O-])C1=CC=C(OCC(COC2=CC=C(C=C2)[N+](=O)[O-])(CC)CC)C=C1 | C19H22N2O6
solvent | DMF | 1400 l | CN(C)C=O | C3H7NO
catalyst | Raney nickel | 42 g | [Ni] | Ni
product | 1,3-bis-(4-aminophenoxy)-2,2-diethylpropane | NC1=CC=C(OCC(COC2=CC=C(C=C2)N)(CC)CC)C=C1 | C19H26N2O2
